* C:\Users\class\Desktop\simulation\ad8605-simulation\main.asc
v-sensor N007 N009 SINE(0 140m 120 0 0 5 0)
XU1 N008 N002 v-positive v-negative N002 AD8605
v-rail-negative v-negative 0 -5v
R2 N005 N002 3.32K
v-rail-positive v-positive 0 5v
R3 N006 N005 4.64K
C2 N006 0 100nF
C3 N003 N005 100nF
XU2 N006 N003 v-positive v-negative N003 AD8605
XU3 N003 N004 v-positive v-negative v-amp AD8605
R6 N001 v-amp 10K
R7 v-out N001 47K
R1 N008 N007 6.04K
v-7 N009 N010 SINE(0 17m 840)
v-5 N010 N011 SINE(0 24m 600)
v-3 N011 N012 SINE(0 40m 360)
v-high N012 N013 SINE(0 100m 40k)
B1 N013 0 V=white(10e5*time)/5
C1 N008 0 100nF
R4 0 N004 1K
R5 v-amp 0 20K
R8 v-out 0 1K
XU4 N001 0 v-positive 0 v-out AD8605
.tran 25m
.lib ADI.lib
.backanno
.end
